US08357688B2
To a mixture of 0.355 g of 1-[cis-2-(benzyloxy)cyclopentyl]-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one and 50.0 mL of ethanol was added 142 mg of 10% palladium on carbon (50% wet), followed by stirring overnight under a hydrogen atmosphere. The reaction mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform/methanol=97/3 to 90/10) to give a powder from 2-propanol, thereby obtaining 114 mg of 7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-1-[cis-2-hydroxycyclopentyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one as a colorless solid.

reactant | 1-[cis-2-(benzyloxy)cyclopentyl]-7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 0.355 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](CCC1)C1=NN=C2N1C1=CC(=C(C=C1NC2=O)C(=O)N2CC1=CC=CC=C1C2)C | C31H29N5O3
catalyst | palladium on carbon | 142 mg | [Pd] | Pd
solvent | ethanol | 50.0 mL | C(C)O | C2H6O
product | 7-(1,3-dihydro-2H-isoindol-2-ylcarbonyl)-1-[cis-2-hydroxycyclopentyl]-8-methyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 114 mg | C1N(CC2=CC=CC=C12)C(=O)C=1C=C2NC(C=3N(C2=CC1C)C(=NN3)[C@H]3[C@H](CCC3)O)=O | C24H23N5O3
